US03976785
Preparation of 4'-Chloro-2-Hydroxy-6-Oxo-1-Cyclohexene-1-Carboxanilide and Related Compounds ##SPC6##
A solution containing 8.5 parts of cyclohexane-1,3-dione, 11.5 parts of p-chlorophenylisocyanate and 7.6 parts of triethylamine in 200 parts of acetone is stirred and refluxed for two hours. The infrared spectrum then shows no isocyanate (band at 2270 cm-1). The solution is concentrated under reduced pressure to about 50 parts, with separation of a few crystals, and poured with stirring into 500 parts of 2-normal hydrochloric acid. The precipitated solid is collected by filtration and dried. The resulting solid is mixed with chloroform, 250 parts by volume, and filtered from 6.5 parts of insoluble by-product. Removal of chloroform from the filtrate leaves a light pink solid which is crystallized from alcohol to give 6.7 parts of nearly white solid, melting point 113°C.-114°C.

reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isocyanate | [N-]=C=O
solvent | acetone | CC(=O)C | C3H6O
product | 4'-Chloro-2-Hydroxy-6-Oxo-1-Cyclohexene-1-Carboxanilide | ClC1=CC=C(NC(=O)C2=C(CCCC2=O)O)C=C1 | C13H12ClNO3
